US07981893B2
SYNTHESIS OF 6-(4-HYDROXYPHENYL)-1-((1-METHYLPIPERIDIN-2-YL)METHYL)-1H-IMIDAZO[4,5-B]PYRAZIN-2(3H)-ONE
6-(4-Hydroxyphenyl)-1-((1-methylpiperidin-2-yl)methyl)-1H-imidazo[4,5-b]pyrazin-2(3H)-one hydrochloride. 6-Bromo-1-((1-methylpiperidin-2-yl)methyl)-1H-imidazo[4,5-b]pyrazin-2(3H)-one (0.25 g, 0.766 mmol), and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane (0.063 g, 0.077 mmol) were combined in DMF (30.0 mL). Potassium phosphate (0.65 g, 3.07 mmol) in water (8.0 mL) was added and the reaction stirred at 100° C. for 2 h. The cooled reaction solution was filtered through Celite and the filter cake was washed with ethyl acetate. Filtrate and ethyl acetate wash were combined and solvent removed under reduced pressure. The resulting material was purified using reverse-phase semi-preparatory HPLC (10-80% acetonitrile+0.1% TFA in H2O+0.1% TFA, over 30 min). The desired fractions were concentrated, treated with 4N hydrochloric acid in diethyl ether (few drops), and sonicated. This procedure was repeated twice more to provide the desired product (0.045 g, 0.133 mmol, 17.30% yield) as the hydrochloride salt. 1H NMR (400 MHz, DMSO-d6) 12.13 (s, 1H), 9.76 (s, 1H), 8.52 (s, 1H), 8.42 (s, 1H), 7.87 (d, J=8.4, 2H), 6.87 (d, J=8.4, 2H), 4.23 (dd, J=8.4 and 5.6, 2H), 4.15-4.12 (m, 1H), 2.07 (m, 1H), 1.84 (m, 1H), 1.76-1.73 (m, 2H), 1.64-1.57 (m, 2H), 1.28 (m, 3H), 0.89-0.85 (m, 2H); MS (ESI) m/z 340.1[M+1]+.

reactant | 6-(4-Hydroxyphenyl)-1-((1-methylpiperidin-2-yl)methyl)-1H-imidazo[4,5-b]pyrazin-2(3H)-one hydrochloride | Cl.OC1=CC=C(C=C1)C1=CN=C2C(=N1)N(C(N2)=O)CC2N(CCCC2)C
reactant | 6-Bromo-1-((1-methylpiperidin-2-yl)methyl)-1H-imidazo[4,5-b]pyrazin-2(3H)-one | 0.766 mmol, 0.25 g | BrC1=CN=C2C(=N1)N(C(N2)=O)CC2N(CCCC2)C | C12H16BrN5O
reactant | Potassium phosphate | 3.07 mmol, 0.65 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 30.0 mL | CN(C)C=O | C3H7NO
solvent | water | 8.0 mL | O | H2O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.077 mmol, 0.063 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-(4-HYDROXYPHENYL)-1-((1-METHYLPIPERIDIN-2-YL)METHYL)-1H-IMIDAZO[4,5-B]PYRAZIN-2(3H)-ONE | 0.133 mmol, 0.045 g, 17.30% yield | OC1=CC=C(C=C1)C1=CN=C2C(=N1)N(C(N2)=O)CC2N(CCCC2)C | C18H21N5O2
